US06977264B2
Step (b) tert-Butyl(3S)-3-{N-[(1R)-1-[(3,4-dichlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)-amino]phenyl}piperidyl)-2-oxoethyl]carbamoyl}-1,2,3,4-tetrahydroisoquinoline-2-carboxylate
To a round-bottomed flask equipped with stirring was added N-[(1R)-1-[(3,4-dichlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}-piperidyl)-2-oxoethyl]-(tert-butoxy)carboxamide (Step a) (0.455 g, 0.8 mmol) and a saturated soln of anhydrous HCl in EtOAc (20 mL). The reaction mixture was stirred at RT for 1 h then concentrated in vacuo to provide a solid. The solid was dissolved in DMF (10 mL), stirred at 0° C. and treated with Boc-L-TicOH (Advanced ChemTech) (0.25 g, 0.9 mmol), HOAT (Aldrich) (0.122 g, 0.9 mmol), TEA (Aldrich) (0.188 mL, 1.35 mmol) then EDC (Advanced ChemTech) (0.26 g, 1.35 mmol). The reaction mixture was warmed to RT over 2 h, then stirred at RT for 12 h. The reaction mixture was diluted with EtOAc (70 mL), washed with satd NaHCO3, (50 mL), satd NaCl (50 mL), dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (1:1 EtOAc:hexane then 100% EtOAc) provided the title compound as a white foam (0.54 g). MS (ESI, pos. ion) m/z: 729 (M+1); MS (ESI, neg. ion) m/z: 727 (M−1). Calc'd for C36H42Cl2N4O6S: 728.22.

reactant | N-[(1R)-1-[(3,4-dichlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}-piperidyl)-2-oxoethyl]-(tert-butoxy)carboxamide | ClC=1C=C(C=CC1Cl)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)OC(C)(C)C | C26H33Cl2N3O5S
reactant | HCl | Cl | ClH
reactant | Boc-L-TicOH | 0.9 mmol, 0.25 g | N1([C@@H](CC2=CC=CC=C2C1)C(=O)O)C(=O)OC(C)(C)C | C15H19NO4
reactant | HOAT | 0.9 mmol, 0.122 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 1.35 mmol, 0.26 g
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl(3S)-3-{N-[(1R)-1-[(3,4-dichlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)-amino]phenyl}piperidyl)-2-oxoethyl]carbamoyl}-1,2,3,4-tetrahydroisoquinoline-2-carboxylate | 0.54 g | ClC=1C=C(C=CC1Cl)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)[C@H]1N(CC2=CC=CC=C2C1)C(=O)OC(C)(C)C | C36H42Cl2N4O6S
